US04215139
10.88 g of a 50% sodium hydride suspension in mineral oil are diluted with 230 ml of absolute dimethylformamide and treated within 30 minutes with a solution of 50 g of p-(p-chlorophenoxy)phenol in 230 ml of absolute dimethylformamide while the temperature rises slightly. The mixture is then stirred at room temperature for 30 minutes. A solution of 18.8 g of chloroacetonitrile in 200 ml of absolute dimethylformamide is added dropwise while cooling the mixture in a water-bath. The mixture is stirred at 50° C. overnight, then cooled and diluted with 1 liter of water. This mixture is extracted five times with 200 ml of ethyl acetate each time. The organic phases are washed twice with 100 ml of 2-N sodium carbonate solution, once with 100 ml of saturated sodium chloride solution and then dried over magnesium sulfate and evaporated. The crude product (80 g of a dark oil) is purified by chromatography on silica gel using toluene for the elution to yield 45 g of [p-(p-chlorophenoxy)phenoxy]acetonitrile (76%) as a colorless oil.

reactant | sodium hydride | [H-].[Na+]
reactant | p-(p-chlorophenoxy)phenol | 50 g | ClC1=CC=C(OC2=CC=C(C=C2)O)C=C1 | C12H9ClO2
reactant | chloroacetonitrile | 18.8 g | ClCC#N | C2H2ClN
solvent | dimethylformamide | 230 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 230 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | water | 1 liter | O | H2O
product | [p-(p-chlorophenoxy)phenoxy]acetonitrile | 45 g, 76% | ClC1=CC=C(OC2=CC=C(OCC#N)C=C2)C=C1 | C14H10ClNO2
